US06514964B1
Step B: 2-[2-(4-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)butanoyl)-1H,3H,4H,5H-benzo[e]azepin-5-yl]acetic acid
To methyl-2-[2-(4-{1-[(tert-butyl)oxycarbonyl]-1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl}butanoyl)-1H,3H,4H,5H-benzo[e]azepin-5-yl]acetate was added 4.0M HCl/dioxane (4 mL) and the resulting mixture was stirred for 18 hrs at room temperature, concentrated by rotary evaporation, diluted in MeOH followed by the addition of 1N NaOH (5 eq). The mixture was stirred at room temperature for 48 hrs., acidified with 1N HCl, concentrated by rotary evaporation and extracted with dichloromethane. The organic solvent was concentrated concentrated in vacuo to afford the desired product. EI-MS m/z 408 (M+H)+. 1H-NMR (400MHz, CDCl3): δ7.3-7.1 (m, 4H), 6.35 (m, 2H), 4.75 (d, J=15.1, 1H), 4.55 (m, 2H), 3.8 (m, 1H), 3.5 (m, 5H), 2.4 (m, 3H), 2.15 (m,2H), 2.0 (m,3H), 1.9 (m, 3H), 1.7 (m, 1H).

reactant | methyl-2-[2-(4-{1-[(tert-butyl)oxycarbonyl]-1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl}butanoyl)-1H,3H,4H,5H-benzo[e]azepin-5-yl]acetate | COC(CC1CCN(CC2=C1C=CC=C2)C(CCCC2=CC=C1C(=N2)N(CCC1)C(=O)OC(C)(C)C)=O)=O | C30H39N3O5
reactant | HCl dioxane | 4.0M, 4 mL | Cl.O1CCOCC1
reactant | NaOH | 1N, 5 eq | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
product | 2-[2-(4-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)butanoyl)-1H,3H,4H,5H-benzo[e]azepin-5-yl]acetic acid | N1CCCC=2C1=NC(=CC2)CCCC(=O)N2CCC(C1=C(C2)C=CC=C1)CC(=O)O | C24H29N3O3
